US05565571
(±)-5-(Acetamidomethyl)3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone
(±)-5-(Aminomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone (PREPARATION 7, 135 mg, 0.433 mmol) in anhydrous methylene chloride (10 ml), pyridine (143 μl, 1.77 mmol, 4 eq) and acetic anhydride (167 μl, 1.77 mmol, 4 eq) are combined. The reaction is allowed to stir at 20°-25° under nitrogen. After 2.5 hr the reaction is added to methylene chloride (30 ml) and washed with saturated sodium bicarbonate then brine, dried (sodium sulfate), filtered and concentrated under reduced pressure to a solid. This material is purified by silica gel (70 g) chromatography eluted with methanol/chloroform (1/99-4/96 gradient). The appropriate fractions are pooled and concentrated to give the title compound, mp 218°-219°; FTIR (mull)cm-1 3347, 1742, 1679, 1648, 1563, 1409, 1247, 1022, 755; MS (EI, m/z) 347 [M+ ], 303, 275, 244, 219, 73, 56; NMR (CDCl3) 8.68, 8.59, 7.85, 7.48-7.41, 7.31, 4.87-4.79, 4.10, 3.82, 3.72-3.57, 2.03 δ.

reactant | (±)-5-(Aminomethyl)-3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone | 0.433 mmol, 135 mg | NCC1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1C=NC=CC1)F | C15H13F2N3O2
reactant | pyridine | 1.77 mmol, 143 μl, 4 eq | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.77 mmol, 167 μl, 4 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (±)-5-(Acetamidomethyl)3-[4-(3-pyridyl)-3,5-difluorophenyl]-2-oxazolidinone | C(C)(=O)NCC1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1C=NC=CC1)F | C17H15F2N3O3
